US07576080B2
A mixture of N-[3-(4-aminophenyl)propyl]-5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-amine (0.014 g, 0.037 mmol) and acetic anhydride (0.01 mL) in methylene chloride (2.0 mL) was heated to 60° C. for 6 h. The reaction was allowed to cool to room temperature and concentrated in vacuo. The residue was then dissolved in ethyl acetate (30 mL) and the organic layer was washed with sodium bicarbonate (2×25 mL). Concentration, followed by followed by silica gel column chromatography purification (using 3% methanol in 1:1 ethyl acetate/hexane and ammonia (0.03%) as eluent) afforded N-[4-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]amino}propyl)phenyl]acetamide in 90% yield.

reactant | N-[3-(4-aminophenyl)propyl]-5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-amine | 0.037 mmol, 0.014 g | NC1=CC=C(C=C1)CCCNC=1C2=C(N=CN1)SC=C2C2=CC=C(C=C2)F | C21H19FN4S
reactant | acetic anhydride | 0.01 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]amino}propyl)phenyl]acetamide | 90% yield | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)NCCCC2=CC=C(C=C2)NC(C)=O | C23H21FN4OS
